US05102667
4N aqueous sodium hydroxide solution (100 cc) is added to a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (16.6 g) in dichloromethane (250 cc), with stirring; the organic phase is dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (4 kPa). (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone (13 g) is obtained in the form of a white meringue.

reactant | sodium hydroxide | 4N, 100 cc | [OH-].[Na+]
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 16.6 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
solvent | dichloromethane | 250 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone | 13 g | C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1 | C20H21NO
